US07906516B2
N-[4-(3-oxomorpholin-4-yl)phenyl]-(R)-1-(5-chlorothiophene-2-carbonyl)-pyrrolidine-2-carboxamide (“AB1”)
0.71 g (4.66 mmol) of 1-hydroxybenzotriazole hydrate, 0.76 g (4.66 mmol) of 5-chlorothiophenecarboxylic acid, 1.79 g (9.33 mmol) of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (DAPECI) and 1.13 ml of N-methylmorpholine are added successively to a solution of 1.35 g (4.66 mmol) of N-[4-(3-oxomorpholin-4-yl)phenyl]pyrrolidine-2-carboxamide in 30 ml of dimethylformamide, and the resultant solution is stirred at room temperature for 12 hours. The reaction solution is subsequently evaporated to dryness under reduced pressure, the residue is taken up in 10 ml of 5% sodium hydrogencarbonate solution, and the sodium hydrogencarbonate solution is extracted twice with 10 ml of ethyl acetate each time. After the combined organic phases have been dried over sodium sulfate and the solvent has been stripped off, the solid residue is triturated with 20 ml of diethyl ether, giving 1.2 g (59.4%) of “AB1”, ESI 434; m.p. 195°.

reactant | 1-hydroxybenzotriazole hydrate | 4.66 mmol, 0.71 g | O.ON1N=NC2=C1C=CC=C2
reactant | 5-chlorothiophenecarboxylic acid | 4.66 mmol, 0.76 g | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 9.33 mmol, 1.79 g | Cl.CN(CCCN=C=NCC)C
reactant | N-methylmorpholine | 1.13 ml | CN1CCOCC1 | C5H11NO
reactant | N-[4-(3-oxomorpholin-4-yl)phenyl]pyrrolidine-2-carboxamide | 4.66 mmol, 1.35 g | O=C1N(CCOC1)C1=CC=C(C=C1)NC(=O)C1NCCC1 | C15H19N3O3
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-[4-(3-oxomorpholin-4-yl)phenyl]-(R)-1-(5-chlorothiophene-2-carbonyl)-pyrrolidine-2-carboxamide | O=C1N(CCOC1)C1=CC=C(C=C1)NC(=O)[C@@H]1N(CCC1)C(=O)C=1SC(=CC1)Cl | C20H20ClN3O4S
